US04550103
A mixture of 151.65 g (0.695 mole) of N-ethyl-1-(phenylmethyl)-3-pyrrolidinemethanamine, 5 g of 20% palladium on carbon, and 1100 ml of ethanol was shaken in an atmosphere of hydrogen at about 50 psi and at room temperature for 21.6 hours. Another 5 g of 20% palladium on carbon was added and the hydrogenation continued for 24 hours. The catalyst was filtered and the filtrate evaporated under reduced pressure. The residue was distilled under vacuum, bp 88°-91° C. (11.5 mm), to give 66.0 g N-ethyl-3-pyrrolidinemethanamine.

reactant | N-ethyl-1-(phenylmethyl)-3-pyrrolidinemethanamine | 0.695 mole, 151.65 g | C(C)NCC1CN(CC1)CC1=CC=CC=C1 | C14H22N2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 5 g | [Pd] | Pd
catalyst | palladium on carbon | 5 g | [Pd] | Pd
solvent | ethanol | 1100 ml | C(C)O | C2H6O
product | N-ethyl-3-pyrrolidinemethanamine | 66.0 g | C(C)NCC1CNCC1 | C7H16N2
